US06541479B1
S-(4-Methoxybenzyl)thiosalicylic acid.
Thiosalicylic acid 15.419 g(0.1M) was dissolved in 150 mL of dimethylformamide (DMF) and 41.463 g(0.3M) of K2CO3, was added to the mixture with stirring. To the above solution, 4-methoxybenzyl chloride 15.661 g(0.1M) was added and the mixture was refluxed for 10 hours. The solution then was cooled to room temperature and 150 mL of water was added and the mixture was acidified with 3M HCL. The precipitated material was collected by gravity filtration and washed with acetone to give 27.364 g(99.7%) of white powder with a melting point of 225-227° C. and the following specifications:

reactant | Thiosalicylic acid | 0.1M, 15.419 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | 4-methoxybenzyl chloride | 0.1M, 15.661 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | 150 mL | O | H2O
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | K2CO3 | 0.3M, 41.463 g | C(=O)([O-])[O-].[K+].[K+]
product | S-(4-Methoxybenzyl)thiosalicylic acid | 27.364 g, 99.7% | COC1=CC=C(CSC=2C(C(=O)O)=CC=CC2)C=C1 | C15H14O3S
